US08791303B2
Preparation of 5-[1-Cyclopropyl-methylidene]-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone
To a solution of 5-(Cyclopropyl-hydroxy-methyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (622 mg, 2.1 mmol) in CH2Cl2 (10 ml) at 0 C were added dropwise Et3N (0.59 ml, 4.2 mmol) followed my methane sulfonyl chloride (0.33 ml, 4.2 mmol). The reaction was allowed to warm to room temperature over 10 minutes and then quenched by addition of 1M HCl (10 ml). The layers were separated and the organic phase was evaporated to dryness under reduced pressure. The crude mesylate was dissolved in MeOH (10 ml) and K2CO3 (580 mg, 4.2 mmol) was added in a single portion. The reaction was stirred at room temperature for 2 hours and then the solvent was removed under reduced pressure. The crude material was partitioned between EtOAc (20 ml) and H2O (20 ml), the organic phase was washed with brine (20 ml), dried over MgSO4, filtered and evaporated to dryness under reduced pressure. The crude material was purified by flash chromatography over SiO2 using a 100% isohexane to 100% EtOAc gradient to give the desired product as a colourless oil (83 mg).

reactant | 5-(Cyclopropyl-hydroxy-methyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 2.1 mmol, 622 mg | C1(CC1)C(C1CC(=C(C1=O)C1=C(C=C(C=C1C)C)C)OC)O | C19H24O3
reactant | Et3N | 4.2 mmol, 0.59 ml | CCN(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 4.2 mmol, 0.33 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | 4.2 mmol, 580 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-[1-Cyclopropyl-methylidene]-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 83 mg | C1(CC1)C=C1CC(=C(C1=O)C1=C(C=C(C=C1C)C)C)OC | C19H22O2
